US07105503B2
Preparation of 3-(Piperidin-1-yl)methylphenylamine
To a solution of 1-(3-nitrobenzyl)piperidine (263 mg; 1.19 mmol) in THF:ethanol mixture (1:1) (15 mL) was added a catalytical amount of Raney-Nickel and hydrazine hydrate (6.0 mmol) and the mixture was stirred for 15 minutes at ambient temperature, filtered through a Celite-pad and the filtrate was evaporated to provide the title compound (180 mg, 95%), which was used in further reactions without purification.

reactant | 1-(3-nitrobenzyl)piperidine | 1.19 mmol, 263 mg | [N+](=O)([O-])C=1C=C(CN2CCCCC2)C=CC1 | C12H16N2O2
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | hydrazine hydrate | 6.0 mmol | O.NN
solvent | THF | C1CCOC1 | C4H8O
catalyst | Raney-Nickel | [Ni] | Ni
product | 3-(Piperidin-1-yl)methylphenylamine | 180 mg, 95% | N1(CCCCC1)CC=1C=C(C=CC1)N | C12H18N2
